US04816587
Preparation of 2-bromo-α-ergocryptine
9.1 ml of trimethylbromosilane are added to 1000 ml of anhydrous dimethylsulfoxide and the solution is stirred at room temperature for 15 minutes, then 10 g of a base mixture of α-ergocryptine and ergosine are added, which contains 64.2% of α-ergocryptine base, 28.46% of ergosine base, 2.78% of α-ergocryptinine base and 1.96% of ergosinine base. After stirring for 20 minutes, the mixture is poured into 5 liters of ice-water and the pH is made alkaline up to a value of 8 to 9 by adding aqueous ammonia. The mixture is extracted 3 times with 500 ml of dichloromethane each, the organic phases are combined and washed 3 times with 200 ml of 10% sodium chloride solution each. The dichloromethane phase is dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The residue is purified on a Kieselgel column by using ethyl acetate as eluant to give the title compound in a yield of 6.3 g (0.00967 mole, 87%) (as calculated for the starting base mixture), m.p.: 218° C.; as well as 2.9 g (0.0046 mole, 89%) of 2-bromoergosine, m.p.: 183°-185° C.

reactant | trimethylbromosilane | 9.1 ml | C[Si](Br)(C)C | C3H9BrSi
reactant | α-ergocryptine | CC(C)C[C@H]1C(=O)N2CCC[C@H]2[C@]3(N1C(=O)[C@](O3)(C(C)C)NC(=O)[C@H]4CN([C@@H]5CC6=CNC7=C6C(=CC=C7)C5=C4)C)O | C32H41N5O5
reactant | ergosine | CC(C)C[C@H]1C(=O)N2CCC[C@H]2[C@]3(N1C(=O)[C@](O3)(C)NC(=O)[C@H]4CN([C@@H]5CC6=CNC7=CC=CC(=C67)C5=C4)C)O | C30H37N5O5
reactant | α-ergocryptinine | CC(C)C[C@H]1C(=O)N2CCC[C@H]2[C@]3(N1C(=O)[C@](O3)(C(C)C)NC(=O)[C@H]4CN([C@H]5CC6=CNC7=CC=CC(=C67)C5=C4)C)O | C32H41N5O5
reactant | ammonia | N | H3N
solvent | dimethylsulfoxide | 1000 ml | CS(=O)C | C2H6OS
product | 2-bromo-α-ergocryptine | CC(C)C[C@H]1C(=O)N2CCC[C@H]2[C@]3(N1C(=O)[C@](O3)(C(C)C)NC(=O)[C@H]4CN([C@@H]5CC6=C(NC7=CC=CC(=C67)C5=C4)Br)C)O | C32H40BrN5O5
